US06593330B2
Step 1: (3S)-3-Methyl-1-tritylpiperazine
To a solution of 2-(S)-methylpiperazine (2.62 g, 26.2 mmol) in dichloromethane (100 mL) was trityl chloride (7.30 g, 26.2 mmol) added and the mixture was stirred at ambient temperature for 1.5 h. The organic phase was washed (×1) with 1 M aqueous K2CO3, water, and brine. Drying (MgSO4) and solvent removal in vacuo furnished a quantitative yield of the title compound as a glassy oil which solidified upon standing. This material was used directly in the next step.

reactant | 2-(S)-methylpiperazine | 26.2 mmol, 2.62 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | trityl chloride | 26.2 mmol, 7.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (3S)-3-Methyl-1-tritylpiperazine | quantitative yield | C[C@H]1CN(CCN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H26N2
